US04843066
The 6-position of 2-amino-6-chloro-9-(2,3,5-O-triacetyl-β-D-ribofuranosyl)-9H-purine was aminated by ammonia to give 2-aminoadenosine. In the same manner as Example 1 [METHOD 1], 2-aminoadenosine was methylated to give 2-amino-2'-O-methyladenosine (Compound 30) and 2-amino-3'-O-methyladenosine (Compound 31).

reactant | 2-amino-6-chloro-9-(2,3,5-O-triacetyl-β-D-ribofuranosyl)-9H-purine | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@](O)([C@](O)([C@H](O1)COC(C)=O)C(C)=O)C(C)=O)Cl | C16H18ClN5O7
reactant | ammonia | N | H3N
product | 2-aminoadenosine | NC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H14N6O4
